US06177452B1
A mixture of 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionic acid (1.43 g), imidazole (1.70 g), potassium carbonate (2.80 g) and N,N-dimethylformamide (15 ml) was stirred at 130° C. for 2.5 hours. Water was added to the reaction mixture. The pH was then adjusted 6 with 2 N hydrochloric acid. The crystals thus precipitated were collected by filtration to obtain 4-(4-chlorophenyl)-2-(1-imidazolyl)-5-oxazolepropionic acid (1.35 g, 85%). This was recrystallized from methanol to give colorless needles. mp 194-195° C.

reactant | 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionic acid | 1.43 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCC(=O)O | C12H9Cl2NO3
reactant | imidazole | 1.70 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 2.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-(4-chlorophenyl)-2-(1-imidazolyl)-5-oxazolepropionic acid | 1.35 g, 85% | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)O)N1C=NC=C1 | C15H12ClN3O3
